US09353121B2
A mixture of benzaldehyde (290 μL, 2.87 mmol, 1.0 equ.), malononitrile (190 mg, 2.87 mmol, 1.0 equ.) and triethylamine (400 μL, 2.87 mmol, 1.0 equ.) in ethanol (10 mL) was stirred for 1 min, followed by the addition of 3-(4-methoxyphenyl)-1-methyl-1H-pyrazol-5(4H)-one (583 mg, 2.87 mmol, 1 equ.). The reaction mixture was concentrated after 24 h. The crude material was purified by column chromatography (25% ethyl acetate in hexanes to 100% ethyl acetate), then re-crystallized from ethanol and washed with hexanes and ethanol to give 6-amino-3-(4-methoxyphenyl)-1-methyl-4-phenyl-1,4-dihydropyrano[2,3-c]pyrazole-5-carbonitrile (80.9 mg, 8%, 0.226 mmol) as a yellow solid. 1H-NMR (400 MHz) DMSO: 7.42-7.40 (d, 2H), 7.23-7.21 (m, 2H), 7.15-7.13 (d, 3H), 7.06 (s, 1H), 6.77-6.75 (d, 2H), 4.93 (s, 1H), 3.76 (s, 3H), 3.69 (s, 3H), 13C-NMR (100 MHz) DMSO: 159.1, 159.0, 145.9, 144.8, 144.5, 128.8, 127.8, 127.7, 127.1, 125.8, 120.5, 113.9, 95.0, 59.9, 55.4, 38.2, 34.4; LC/MS-MS: 359.1→293.0 m/z; GS1 and GS2 at 30, DP=76, CE=31, CXP=20, tR=3.96 min.

reactant | benzaldehyde | 2.87 mmol, 290 μL | C(C1=CC=CC=C1)=O | C7H6O
reactant | malononitrile | 2.87 mmol, 190 mg | C(CC#N)#N | C3H2N2
reactant | triethylamine | 2.87 mmol, 400 μL | C(C)N(CC)CC | C6H15N
reactant | 3-(4-methoxyphenyl)-1-methyl-1H-pyrazol-5(4H)-one | 2.87 mmol, 583 mg | COC1=CC=C(C=C1)C1=NN(C(C1)=O)C | C11H12N2O2
solvent | ethanol | 10 mL | C(C)O | C2H6O
product | 6-amino-3-(4-methoxyphenyl)-1-methyl-4-phenyl-1,4-dihydropyrano[2,3-c]pyrazole-5-carbonitrile | 0.226 mmol, 80.9 mg, 8% | NC1=C(C(C2=C(N(N=C2C2=CC=C(C=C2)OC)C)O1)C1=CC=CC=C1)C#N | C21H18N4O2
